US04539152
To a solution of (3R,4R)-3-(benzyloxycarbonylamino)-4-(2,2-dimethoxyethyl)azetidin-2-one (1.014 g) in tetrahydrofuran (15 ml) were added portionwise a solution of sodium cyanoborohydride (460 mg) in tetrahydrofuran (2.30 ml) and 2N hydrochloric acid (7.5 ml) at ambient temperature during a period of 90 minutes. The solution was adjusted to pH 7 with saturated aqueous sodium hydrogen carbonate and concentrated in vacuo. The concentrate was acidified to pH 4 with 2N hydrochloric acid, saturated with sodium chloride and extracted four times with chloroform. The combined extracts were dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (15 g, eluting with 3-10% methanol in dichloromethane) to give a crystalline solid, which was washed with ether and collected by filtration to give 553 mg of (3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)azetidin-2-one.

reactant | (3R,4R)-3-(benzyloxycarbonylamino)-4-(2,2-dimethoxyethyl)azetidin-2-one | 1.014 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N[C@@H]1CC(OC)OC)=O | C15H20N2O5
reactant | sodium cyanoborohydride | 460 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.30 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2N, 7.5 ml | Cl | ClH
product | (3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)azetidin-2-one | 553 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N[C@@H]1CCO)=O | C13H16N2O4
